US04710507
A solution of 2-chloro-6-bromoquinoline (4.0 g) in methanol (20 cm3) was heated under reflux with sodium methoxide [made from sodium (0.5 g) and methanol (20 cm3)] for 16 hours. The solvent was removed in vacuo and the residue was partitioned between water (20 cm3) and chloroform (100 cm3). The aqueous phase was extracted with chloroform (2×30 cm3) and the dried (MgSO4) extracts were evaporated to give a solid which was recrystallised from petroleum ether (b.p. 60°-80°) to yield 2-methoxy-6-bromoquinoline, m.p. 93°-96°, (3.0 g).

reactant | 2-chloro-6-bromoquinoline | 4.0 g | ClC1=NC2=CC=C(C=C2C=C1)Br | C9H5BrClN
reactant | sodium methoxide | 20 cm3, 0.5 g | C[O-].[Na+]
solvent | methanol | 20 cm3 | CO | CH4O
product | 2-methoxy-6-bromoquinoline | COC1=NC2=CC=C(C=C2C=C1)Br | C10H8BrNO
